US05097023
2,3,5-Tri-O-benzyl-L-xylitol (10.2 g, 24.17 nmmol) is dissolved in dry methylene chloride (100 ml) containing triethylamine (10.1 mL, 72.5 mmol). The mixture is cooled to -10° C. and methane sulfonylchloride (3.93 mL, 50.75 mmol) is added dropwise. The mixture is stirred 30 minutes at -10° C. and washed with water. The organic layer is dried over sodium sulfate, filtered and put to dryness under reduced pressure to afford an oil. Flash chromatography on silica gel and elution with a 4:6 mixture of ethyl acetate and cyclohexane yield 1,4-di-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol as an oil (13.9 g, 99%).

reactant | 2,3,5-Tri-O-benzyl-L-xylitol | 10.2 g | C(C1=CC=CC=C1)O[C@H](CO)[C@H](OCC1=CC=CC=C1)[C@@H](O)COCC1=CC=CC=C1 | C26H30O5
reactant | triethylamine | 72.5 mmol, 10.1 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonylchloride | 50.75 mmol, 3.93 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,4-di-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol | 13.9 g, 99% | CS(=O)(=O)OC[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C28H34O9S2
